US07732618B2
b.) [5-(Benzyl-cyclohexanecarbonyl-amino)-2-propyl-benzoimidazol 1-yl]-acetic acid.
[5-(Benzyl-cyclohexanecarbonyl-amino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester (0.12 mmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.50 (d, 1H), 7.21 (m, 6H), 6.95 (m, 1H), 5.09 (s, 2H), 4.86 (s, 2H), 2.72 (t, 2H), 2.18 (m, 1H), 1.60 (m, 9H), 1.10 (m, 1H), 0.99 (t, 3H), 0.85 (m, 2H). MS calculated for C26H31N3O3+H: 434, observed: 434.

reactant | [5-(Benzyl-cyclohexanecarbonyl-amino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester | 0.12 mmol | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(C(=O)C2CCCCC2)CC2=CC=CC=C2)CCC)=O | C30H39N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | [5-(Benzyl-cyclohexanecarbonyl-amino)-2-propyl-benzoimidazol 1-yl]-acetic acid | C(C1=CC=CC=C1)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)C(=O)C1CCCCC1 | C26H31N3O3
